US07514419B2
To a solution of 4-(3′-benzyl-4′-methoxymethoxy-benzyl)-3,5-dimethyl-phenyl trifluoromethanesulfonate (0.5 g, 1 mmol) in DMF (8 mL) in a bomb apparatus was added MeOH (0.82 mL, 20 mmol), Pd(OAc)2 (23 mg, 0.1 mmol), bis-(diphenyphosphino)propane (42 mg, 0.1 mmol) and TEA (0.28 mL, 2 mmol). 60 psi of CO was then infused and the reaction mixture was stirred at 90° C. for 16 h. The cooled bomb was vented and the reaction mixture was poured into cold 1N HCl, extracted with EtOAc twice, the combined EtOAc were washed with brine, dried over MgSO4, filtrated and concentrated. The residue was purified by column chromatography on silica gel, eluting with ethyl acetate-hexanes (15:75) to afford methyl 4-(3′-benzyl-4′-methoxymethoxy-benzyl)-3,5-dimethyl-benzoate as a yellow oil (360 mg, 88%): 1H NMR (300 MHz, DMSO-d6): δ 7.66 (s, 2 H), 7.16 (m, 5 H), 6.90 (m, 2 H), 6.71 (m, 1 H), 5.15 (s, 2 H), 3.98 (s, 2 H), 3.87 (s, 2 H), 3.85 (s, 3 H), 3.26 (s, 3 H), 2.25 (s, 6 H). TLC conditions: Uniplate silica gel, 250 microns; Mobile phase=ethyl acetate-hexanes (15:75); Rf=0.50.

reactant | 4-(3′-benzyl-4′-methoxymethoxy-benzyl)-3,5-dimethyl-phenyl trifluoromethanesulfonate | 1 mmol, 0.5 g | FC(S(=O)(=O)OC1=CC(=C(C(=C1)C)CC1=CC(=C(C=C1)OCOC)CC1=CC=CC=C1)C)(F)F | C25H25F3O5S
reactant | MeOH | 20 mmol, 0.82 mL | CO | CH4O
reactant | bis-(diphenyphosphino)propane | 0.1 mmol, 42 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C(C)(C)P(C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
reactant | HCl | 1N | Cl | ClH
reactant | DMF | 8 mL | CN(C)C=O | C3H7NO
catalyst | Pd(OAc)2 | 0.1 mmol, 23 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | methyl 4-(3′-benzyl-4′-methoxymethoxy-benzyl)-3,5-dimethyl-benzoate | 360 mg, 88% | C(C1=CC=CC=C1)C=1C=C(CC2=C(C=C(C(=O)OC)C=C2C)C)C=CC1OCOC | C26H28O4
